US04550166
3-Methyl-5-(2-pyridinyl)-1,2,4-triazolo[4,3-a]pyridine
A mixture of 1.0 g of 6'-hydrazino-2,2'-bipyridine, 50 ml of ethyl orthoacetate and 5 drops of acetic acid was heated on a steam bath for 2.5 days. The volatiles were removed under vacuum and the residue crystallized from ether-hexane. These crystals were dissolved in dichloromethane and the solution passed through a short pad of hydrous magnesium silicate. Concentration of the filtrate gave 460 mg of the desired product as crystals, mp 168°-170° C.

reactant | 6'-hydrazino-2,2'-bipyridine | 1.0 g | N(N)C1=CC=CC(=N1)C1=NC=CC=C1 | C10H10N4
reactant | ethyl orthoacetate | 50 ml | C(C)(OCC)([O-])[O-]
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | 3-Methyl-5-(2-pyridinyl)-1,2,4-triazolo[4,3-a]pyridine | 460 mg | CC1=NN=C2N1C(=CC=C2)C2=NC=CC=C2 | C12H10N4
